US05889012
4-Isopropenylcyclohexanone
4.1 g of a 37% strength solution of HF in trimethylamine were added dropwise with stirring at room temperature to 8.0 g (0.038 mol) of 1-trimethylsilyloxy-4-isopropenyl-1-cyclohexene in 100 ml of CH2Cl2, and the mixture was subsequently stirred for 2 hours. Water was added, extraction was carried out with CH2Cl21 and the combined organic phases were dried and concentrated. 4.7 g (90% of theory) were obtained of a colorless oil which was reacted without further purification.

reactant | 1-trimethylsilyloxy-4-isopropenyl-1-cyclohexene | 0.038 mol | C[Si](OC1=CCC(CC1)C(=C)C)(C)C | C12H22OSi
reactant | Water | O | H2O
solvent | trimethylamine | CN(C)C | C3H9N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-Isopropenylcyclohexanone | C(=C)(C)C1CCC(CC1)=O | C9H14O
